US05403854
Preparation of 3-(6-Methoxy-quinolin-8-ylamino)-4-ethoxy-cyclobut-3-ene-1,2-dione
In a procedure identical to Example 10, Step 1, 8-amino-6-methoxyquinoline (2.00 g, 11.48 mmol) was reacted with 3,4-diethoxy-3-cyclobutene-1,2-dione (1.70 mL, 11.48 mmol) to give 0.99 g (29%) of product: 1H NMR (DMSO-d6) δ10.21 (s, 1H), 8.75 (dd, 1H), 8.29 (dd, 1H), 7.61 (m, 2H), 7.17 (d, 1H), 4.76 (q, 2H), 3.90 (s, 3H), 1.40 (t, 3H).

reactant | 8-amino-6-methoxyquinoline | 11.48 mmol, 2.00 g | NC=1C=C(C=C2C=CC=NC12)OC | C10H10N2O
reactant | 3,4-diethoxy-3-cyclobutene-1,2-dione | 11.48 mmol, 1.70 mL | C(C)OC=1C(C(C1OCC)=O)=O | C8H10O4
product | 3-(6-Methoxy-quinolin-8-ylamino)-4-ethoxy-cyclobut-3-ene-1,2-dione | 0.99 g, 29% | COC=1C=C2C=CC=NC2=C(C1)NC=1C(C(C1OCC)=O)=O | C16H14N2O4
